US08222416B2
To a solution of (tetrahydro-pyran-2-yl)-acetic acid ethyl ester (77.1 g, 0.45 mol) in tetrahydrofuran (1.5 L) at 0° C. was added lithium aluminium hydride (22.1 g, 0.58 mol) in several portions. The mixture was stirred at 0° C. for 2 h and quenched with 1 N sodium hydroxide solution. The mixture was filtered and the filter cake was washed with dichloromethane (4×300 mL). The combined organic layers were concentrated in vacuo. The crude product was purified by distillation under reduced pressure to afford 2-(tetrahydro-pyran-2-yl)-ethanol (53.5 g, 92% yield) as a colorless oil.

reactant | (tetrahydro-pyran-2-yl)-acetic acid ethyl ester | 0.45 mol, 77.1 g | C(C)OC(CC1OCCCC1)=O | C9H16O3
reactant | lithium aluminium hydride | 0.58 mol, 22.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 1.5 L | O1CCCC1 | C4H8O
product | 2-(tetrahydro-pyran-2-yl)-ethanol | 53.5 g, 92% yield | O1C(CCCC1)CCO | C7H14O2
